US04349553
Preparation of 6-(Methylthio)-5,7-diazaspiro[2.5]oct-5-ene-hydriodide
A mixture of 5,7-diazaspiro[2.5]octane-6-thione (7.53 g; 0.053 mol), methyl iodide (8.43 g; 0.0594 mol) and absolute ethanol (26 ml) is stirred and heated at 45° C. for one hour until the reaction mixture becomes straw colored and homogeneous. Ethyl acetate is added with cooling, the precipitated crystalline material is collected and dried to afford 14.05 g (93.5% yield) of title product, m.p. 128°-130° C.

reactant | 5,7-diazaspiro[2.5]octane-6-thione | 0.053 mol, 7.53 g | C1CC12CNC(NC2)=S | C6H10N2S
reactant | methyl iodide | 0.0594 mol, 8.43 g | CI | CH3I
reactant | ethanol | 26 ml | C(C)O | C2H6O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(Methylthio)-5,7-diazaspiro[2.5]oct-5-ene-hydriodide | 14.05 g, 93.5% yield | I.CSC1=NCC2(CC2)CN1 | InChI=1S/C7H12N2S.HI/c1-10-6-8-4-7(2-3-7)5-9-6;/h2-5H2,1H3,(H,8,9);1H
